US07528160B2
2-(5-Benzyloxy-indol-1-yl)-2-methyl-propionic acid ethyl ester
To a solution of 2-(5-benzyloxy-indol-1-yl)-propionic acid ethyl ester (20 g, 61.5 mmol) in THF (180 mL) is added LDA (2.0 M toluene, 37 mL) dropwise at −78° C. After the addition of LDA, the mixture is stirred for 30 min, then methyl iodide (8.77 g, 122.6 mmol) is added. The reaction mixture is allowed to warm to room temperature, after stirred for 2 hrs, quenched by water, extracted with ethyl acetate, dried over sodium sulfate. Concentration yields the title compound.

reactant | 2-(5-benzyloxy-indol-1-yl)-propionic acid ethyl ester | 61.5 mmol, 20 g | C(C)OC(C(C)N1C=CC2=CC(=CC=C12)OCC1=CC=CC=C1)=O | C20H21NO3
reactant | LDA | 2.0 M, 37 mL | [Li+].CC(C)[N-]C(C)C
reactant | methyl iodide | 122.6 mmol, 8.77 g | CI | CH3I
solvent | THF | 180 mL | C1CCOC1 | C4H8O
product | 2-(5-Benzyloxy-indol-1-yl)-2-methyl-propionic acid ethyl ester | C(C)OC(C(C)(C)N1C=CC2=CC(=CC=C12)OCC1=CC=CC=C1)=O | C21H23NO3
